US08193349B2
4-Benzyloxymethyl-cyclohexanecarboxylic acid methyl ester (340 mg, 1.30 mmol) is dissolved in MeOH (15 mL). In presence of catalytic amount of 10% Pd/C, the reaction mixture is stirred for 3 hours under hydrogen (10 bar). After removing 10% Pd/C, solvent is evaporated to obtain trans-4-hydroxymethyl-cyclohexanecarboxylic acid methyl ester as colorless oil (160 mg, 72%) after purification. 1H-NMR (400 MHz, CDCl3), δ (ppm): 0.99 (m, 2H), 1.47 (m, 3H), 1.88 (m, 2H), 2.02 (m, 2H), 2.23 (m, 1H), 3.46 (d, 2H), 3.66 (s, 3H).

reactant | 4-Benzyloxymethyl-cyclohexanecarboxylic acid methyl ester | 1.30 mmol, 340 mg | COC(=O)C1CCC(CC1)COCC1=CC=CC=C1 | C16H22O3
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | trans-4-hydroxymethyl-cyclohexanecarboxylic acid methyl ester | 160 mg, 72% | COC(=O)[C@@H]1CC[C@H](CC1)CO | C9H16O3
